* C:\Users\Burak\Desktop\EE463\EE463_HardwareProject-M.P.W.U-electronics-\Simulation Drafts\First Draft-Three Phase and Buck converter\First assumption.asc
V1 N008 N007 SINE(0 325 50 0 0 120)
V2 N009 N007 SINE(0 325 50 0 0 -120)
V3 N014 N007 SINE(0 325 50 -240)
D1 N008 N001 D
D2 0 N008 D
D3 N009 N001 D
D4 0 N009 D
D5 N014 N001 D
D6 0 N014 D
C1 N010 0 400µF
R1 N002 N017 0.8
V4 N020 0 PULSE(0 5 0 0.1m 0.1m 0.08)
M1 N018 N021 0 0 R6020PNJ
R3 N001 N010 0.001
R2 N021 N020 1k
L2 N017 N004 0.2
V6 N012 N002 PULSE(0 5 0 0.1m 0.1m 0.0005 0.001 80)
M2 P001 N005 N002 N002 R6020PNJ
R4 N005 N012 1k
M3 N019 N023 0 0 R6020PNJ
R5 N023 N022 1k
V7 N013 N004 PULSE(0 5 0.09 0.1m 0.1m 0.0005 0.001)
M4 N003 N006 N004 N004 R6020PNJ
R6 N006 N013 1k
R7 N002 N019 0.1m
R8 N004 N018 0.1m
R9 P001 N001 0.1m
R10 N001 N003 0.1m
V8 N022 0 PULSE(0 5 0.09 0.1m 0.1m 0.08 6)
V9 N015 0 PULSE(5 0 0 0.1m 0.1m 0.08 0.09)
M6 N011 N016 0 0 R6020PNJ
R14 N016 N015 1k
R12 N018 N024 22
C2 N024 0 22µ
.model D D
.lib C:\Users\Burak\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Burak\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.16 0.01 uic
.backanno
.end
